US06387908B1
To a stirred suspension of phosphorus pentachloride (31.4 g, 0.151 mmol.) in anhydrous benzene (300 mL) was added L-isoleucine (19.67 g, 0.151 mmol.) under chilling with ice. The mixture was then stirred for 2 hours under chilling with ice, and further stirred for 17 hours at room temperature. The reaction mixture was chilled with ice and anhydrous aluminum chloride (60 g) was portionwise added. The mixture was then slowly heated to reflux temperature for a period of 2 hours. The mixture was refluxed for 3 hours, and then chilled with ice. The chilled reaction mixture was slowly added to a mixture of concentrated hydrochloric acid (45 mL) and ice (0.3 kg). The resulting mixture was stirred at 5° C. for 40 min. The precipitated crystals were collected by filtration and washed with benzene The washed crystals were dried in air to give 2-(S)-amino-3-methyl-1-phenyl-1-pentanone hydrochloride as a white crystalline product (29.2 g, yield: 85%).

reactant | phosphorus pentachloride | 0.151 mmol, 31.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | L-isoleucine | 0.151 mmol, 19.67 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | aluminum chloride | 60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 45 mL | Cl | ClH
reactant | benzene | 300 mL | C1=CC=CC=C1 | C6H6
product | 2-(S)-amino-3-methyl-1-phenyl-1-pentanone hydrochloride | Cl.N[C@H](C(=O)C1=CC=CC=C1)C(CC)C | InChI=1S/C12H17NO.ClH/c1-3-9(2)11(13)12(14)10-7-5-4-6-8-10;/h4-9,11H,3,13H2,1-2H3;1H/t9?,11-;/m0./s1
